US04327026
36.5 g (0.08 mol) of 5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepine-7-carbonitrile, dissolved in 2700 ml of methanol and 270 ml of ammonia, are hydrogenated in an autoclave with 36.5 g of Raney-nickel at 50° and 3.5 atmospheres. The catalyst is filtered off and the solvent is removed in vacuo. There is obtained 7-(aminomethyl)-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one as a foam.

reactant | 5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepine-7-carbonitrile | 0.08 mol, 36.5 g | FC1=C(C=CC=C1)C1=NCC(N(C2=C1C=C(C=C2)C#N)C)=O | C17H12FN3O
solvent | methanol | 2700 ml | CO | CH4O
solvent | ammonia | 270 ml | N | H3N
catalyst | Raney-nickel | 36.5 g | [Ni] | Ni
product | 7-(aminomethyl)-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | NCC=1C=CC2=C(C(=NCC(N2C)=O)C2=C(C=CC=C2)F)C1 | C17H16FN3O
